US07576238B2
To a suspension of N-[6-(6-acetylamino-3-methoxy-5,6,7,8-tetrahydronaphthalen-2yldisulfanyl)-7-methoxy-1,2,3,4,-tetrahydronaphthalen-2-yl]acetamide (0.368 g; 0.73 mmol) in MeOH (10 mL) was added DMF (3 mL), K2CO3 (0.31 g; 2.26 mmol), tert-butyl 2-bromoisobutyrate (0.66 mL; 2.95 mmol) and NaBH4 (0.28 g; 7.34 mmol) and the reaction mixture was stirred for 18 h at room temperature. The reaction mixture was partitioned between EtOAc and H2O, the aqueous phase extracted with EtOAc, the organic extracts combined, washed with H2O, brine, dried over Na2SO4, filtered and the solvent removed under reduced pressure to yield a crude oil, which was purified by reverse-phase semi-prep HPLC eluting with a MeCN—H2O gradient to yield 2-(6-acetylamino-3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl)-2-methylpropionic acid tert-butyl ester as an oil.

reactant | N-[6-(6-acetylamino-3-methoxy-5,6,7,8-tetrahydronaphthalen-2yldisulfanyl)-7-methoxy-1,2,3,4,-tetrahydronaphthalen-2-yl]acetamide | 0.73 mmol, 0.368 g | C(C)(=O)NC1CC=2C=C(C(=CC2CC1)SSC=1C=C2CCC(CC2=CC1OC)NC(C)=O)OC | C26H32N2O4S2
reactant | K2CO3 | 2.26 mmol, 0.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoisobutyrate | 2.95 mmol, 0.66 mL | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | NaBH4 | 7.34 mmol, 0.28 g | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(6-acetylamino-3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl)-2-methylpropionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)SC1=CC=2CCC(CC2C=C1OC)NC(C)=O)=O | C21H31NO4S
